US06225352B1
2-(3,5-Dimethoxybenzyloxy)benzaldehyde
Salicylaldehyde (0.32 cm3, 3.00 mmol), 4-bromomethyl-1,3-dimethoxybenzene (0.63 g, 2.73 mmol), potassium carbonate (0.42 g, 3.00 mmol), and 18-crown-6-ether (0.07 g, 0.27 mmol) were stirred together at room temperature in acetone (50 cm3, 99%) under nitrogen for 18 hours. The solution was evaporated under reduced pressure, and the residue was taken up in dichloromethane (20 cm3) and water (20 cm3). The aqueous layer was extracted with dichloromethane (2×20 cm3), and the combined extracts were washed with water (2×50 cm3), dried (MgSO4), and evaporated under reduced pressure. The residue was chromatographed (SiO2, heptane:ethyl acetate, 5:1) to give a white crystalline solid. The solid was recrystallized from heptane and ethyl acetate to give the ether, (0.58 g, 78%), as white fibrous needles, mp 68-69° C.

reactant | Salicylaldehyde | 3.00 mmol, 0.32 cm3 | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 4-bromomethyl-1,3-dimethoxybenzene | 2.73 mmol, 0.63 g | BrCC1=C(C=C(C=C1)OC)OC | C9H11BrO2
reactant | potassium carbonate | 3.00 mmol, 0.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6-ether | 0.27 mmol, 0.07 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 50 cm3 | CC(=O)C | C3H6O
product | 2-(3,5-Dimethoxybenzyloxy)benzaldehyde | COC=1C=C(COC2=C(C=O)C=CC=C2)C=C(C1)OC | C16H16O4
